US06165942
Synthesis of 8-(4-bromo-2-fluoro-5-methylsulfonylaminophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (The compound No.49)
A mixture of 8-(5-amino-4-bromo-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (5.0 g), methanesulfonyl chloride (1.21 g), pyridine (2.02 g) and methylene chloride (30 ml) was stirred for 5 days at room temperature. The reaction solution was poured into water and extracted with ethyl acetate. The extract layer was washed with water and dried on anhydrous magnesium sulfate followed by distilling off the solvent under reduced pressure. The residual solid was washed with ether to give the compound of interest (4.8 g) as a white solid.

reactant | 8-(5-amino-4-bromo-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | 5.0 g | NC=1C(=CC(=C(C1)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F)Br | C13H7BrF4N4O
reactant | methanesulfonyl chloride | 1.21 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 2.02 g | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 8-(4-bromo-2-fluoro-5-methylsulfonylaminophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | BrC1=CC(=C(C=C1NS(=O)(=O)C)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C14H9BrF4N4O3S
